US04299769
As described for Example 1, 0.3 mole of 2-bromothiophene is reacted with succinic anhydride to give 4-(5-bromo-2-thienyl)-4-ketobutyric acid (51%), m.p. 141°-143° C. The preceding compound is coupled to L-proline to give 1-[3-(5-bromo-2-thenoyl)propionyl]-L-proline (56%) as crystals, m.p. 166°-168° C. The preceding compound (0.008 mole) is reacted with bromine in acetic acid to yield 1-[3-bromo-3-(5-bromo-2-thenoyl)propionyl]-L-proline as a glass (97%). As for Example 1, reaction of the preceding compound with sodium thioacetate gives the product of the Example (88%) as a yellow glass.

reactant | 2-bromothiophene | 0.3 mole | BrC=1SC=CC1 | C4H3BrS
reactant | succinic anhydride | C1(CCC(=O)O1)=O | C4H4O3
product | 4-(5-bromo-2-thienyl)-4-ketobutyric acid | 51% | BrC1=CC=C(S1)C(CCC(=O)O)=O | C8H7BrO3S
